US04594342
A mixture of 1.1 g of (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 5 ml of acetic acid and 10 ml of 25% hydrogen bromide-acetic acid is stirred at room temperature for 2 hours. After the reaction is completed, the mixture is concentrated under reduced pressure. Toluene is added to the residue, and the mixture is evaporated to remove solvent. Crystalline precipitates are collected by filtration and washed with ether. Then, the crystals are recrystallized from isopropanol. 0.7 g of (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide is obtained as prisms.

reactant | (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.1 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC=C2 | C29H30N2O5S
reactant | hydrogen bromide acetic acid | 10 ml | Br.C(C)(=O)O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 0.7 g | Br.CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCNC)C=CC=C2 | InChI=1S/C21H24N2O3S.BrH/c1-14-8-10-16(11-9-14)20-19(26-15(2)24)21(25)23(13-12-22-3)17-6-4-5-7-18(17)27-20;/h4-11,19-20,22H,12-13H2,1-3H3;1H/t19-,20+;/m1./s1
